US04686224
G1. diethyl 2-nitro-4-benzoylphenylmalonate
To a solution of sodium ethoxide, formed by reacting 4.6 g. (0.2 mole) of sodium metal with 200 ml. of ethanol, at 0° C. was added 32 g. (0.2 mole) of diethyl malonate followed by 26.1 g. (0.1 mole) of 4-chloro-3-nitrobenzophenone. The mixture was allowed to stir at room temperature for 2 hours and was then poured into 400 ml. of ice cold 2N hydrochloric acid and 300 ml. of methylene chloride. The organic layer was separated, dried over magnesium sulfate and concentrated to an oil. The residual oil was induced to crystallize by trituration with hexane containing trace amounts of diisopropyl ether, 34.75 g., m.p. 68°-70° C. The sample was further purified by trituration with hot hexanediisopropyl ether, 30.84 g. (80% yield).

reactant | sodium | 0.2 mole | [Na] | Na
reactant | ethanol | C(C)O | C2H6O
reactant | diethyl malonate | 0.2 mole | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | 4-chloro-3-nitrobenzophenone | 0.1 mole | ClC1=C(C=C(C(=O)C2=CC=CC=C2)C=C1)[N+](=O)[O-] | C13H8ClNO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | diethyl 2-nitro-4-benzoylphenylmalonate | [N+](=O)([O-])C1=C(C=CC(=C1)C(C1=CC=CC=C1)=O)C(C(=O)OCC)C(=O)OCC | C20H19NO7
